US06605617B2
6-Morpholin-4-yl 3-nitropyridin-2-amine
Morpholine (4 eq) was added to a suspension of 6-chloro-3-nitropyridin-2-amine (1 eq) in CH3CN, and the reaction mixture was stirred at 70° C. for 5 hours. The solvent was evaporated under reduced pressure, and the residue was triturated with ether to afford the desired compound as a bright yellow powder. LC/MS m/z 225.0 (MH+), Rf 1.79 minutes.

reactant | Morpholine | 4 eq | N1CCOCC1 | C4H9NO
reactant | 6-chloro-3-nitropyridin-2-amine | 1 eq | ClC1=CC=C(C(=N1)N)[N+](=O)[O-] | C5H4ClN3O2
solvent | CH3CN | CC#N | C2H3N
product | 6-Morpholin-4-yl 3-nitropyridin-2-amine | N1(CCOCC1)C1=CC=C(C(=N1)N)[N+](=O)[O-] | C9H12N4O3
